US05621103
30 g of N-cyclohexyl-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carboxamide methanesulfonate was added to a solution of 300 ml of chloroform and 16.23 g of triethylamine and the resulting mixture was stirred at room temperature for 1 hour. Then 41.5 ml of benzyloxycarbonyl chloride was added thereto under ice-cooling and the resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was washed with 20 ml of water thrice and dried over magnesium sulfate. The reaction mixture was distilled under reduced pressure and the residue was separated by silica gel column chromatography (solvent: chloroform). Thus 23.6 g of N-cyclohexyl-2-(benzyloxycarbonyl)-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carboxamide (yield: 87%) was obtained. The NMR data of this product were as follows. It was confirmed that this product is N-cyclohexyl-2-(benzyloxycarbonyl)-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carboxamide.

reactant | N-cyclohexyl-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carboxamide methanesulfonate | 30 g | CS(=O)(=O)O.C1(CCCCC1)NC(=O)C1CSC23C(=NCCC21)C=CC=C3
reactant | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
reactant | benzyloxycarbonyl chloride | 41.5 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | triethylamine | 16.23 g | C(C)N(CC)CC | C6H15N
product | N-cyclohexyl-2-(benzyloxycarbonyl)-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carboxamide | 23.6 g, yield: 87% | C1(CCCCC1)NC(=O)C1C(SC23C(=NCCC21)C=CC=C3)C(=O)OCC3=CC=CC=C3 | C26H30N2O3S
